US03993660
In the manner given in Example 5, 5-methylthio-2'-chloro-2-[3-(phthalimidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone was heated in ethanol with hydrazine hydrate to give 8-methylthio-1-methyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 5-methylthio-2'-chloro-2-[3-(phthalimidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | CSC=1C=CC(=C(C(=O)C2=C(C=CC=C2)Cl)C1)N1C(=NN=C1C)CN1C(C=2C(C1=O)=CC=CC2)=O | C26H19ClN4O3S
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 8-methylthio-1-methyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=C(C=CC=C3)Cl)C1 | C18H15ClN4S
